US09233979B2
To a solution of 2,5-dimethyldihydrofuran-3(2H)-one (20 g, 0.175 mol) and NaOAc (43 g, 0.526 mol) in EtOH (300 mL), NH2OH.HCl (15.8 g, 0.228 mol) was added portion in the mixture at 0° C. After addition, the reaction was stirred at rt for 3 h. Filtered, the filtrate was concentrated and the residue was dissolved in DCM, filtered, the filtrate was concentrated to give 2,5-dimethyldihydrofuran-3(2H)-one oxime. 1H NMR (ppm, 300 MHz, CDCl3) δ 3.7-4.9 (m, 2H), 2.0-3.0 (m, 2H), 1.2-1.4 (m, 6H).

reactant | 2,5-dimethyldihydrofuran-3(2H)-one | 0.175 mol, 20 g | CC1OC(CC1=O)C | C6H10O2
reactant | NaOAc | 0.526 mol, 43 g | CC(=O)[O-].[Na+]
reactant | NH2OH.HCl | 0.228 mol, 15.8 g | NO.Cl
solvent | EtOH | 300 mL | CCO | C2H6O
product | 2,5-dimethyldihydrofuran-3(2H)-one oxime | CC1OC(CC1=NO)C | C6H11NO2
